US07186734B2
A solution of N,N-bis-benzo[1,3]dioxol-5-ylmethyl-2-(3-butyl-2,5-diphenyl-3H-imidazol-4-yl)-acetamide (150 mg, 0.249 mmol) in tetrahydrofuran (25 mL) is cooled to 0° C. under a nitrogen atmosphere. Lithium aluminum hydride (95%, 30 mg, 0.747 mmol) is added in one portion and the reaction allowed to stir overnight warming to room temperature. Water (0.03 mL), sodium hydroxide (15% solution, 0.03 mL), and water (0.09 mL) are added and the reaction mixture is allowed to stir at 0° C. for 15 minutes. Magnesium sulfate is then added and the crude solution is filtered through a bed of Celite washing with 2% methanol in dichloromethane (100 mL). The crude sample is concentrated in vacuo and flash chromatographed on SiO2 using an eluent of dichloromethane:methanol 95:5 to afford bis-benzo[1,3]dioxol-5-ylmethyl-[2-(3-butyl-2,5-diphenyl-3H-imidazol-4-yl)-ethyl]-amine as a colorless syrup.

reactant | N,N-bis-benzo[1,3]dioxol-5-ylmethyl-2-(3-butyl-2,5-diphenyl-3H-imidazol-4-yl)-acetamide | 0.249 mmol, 150 mg | O1COC2=C1C=CC(=C2)CN(C(CC=2N(C(=NC2C2=CC=CC=C2)C2=CC=CC=C2)CCCC)=O)CC2=CC1=C(OCO1)C=C2 | C37H35N3O5
reactant | Lithium aluminum hydride | 0.747 mmol, 30 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 0.03 mL | [OH-].[Na+]
reactant | Magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 0.09 mL | O | H2O
solvent | Water | 0.03 mL | O | H2O
product | bis-benzo[1,3]dioxol-5-ylmethyl-[2-(3-butyl-2,5-diphenyl-3H-imidazol-4-yl)-ethyl]-amine | O1COC2=C1C=CC(=C2)CN(CCC=2N(C(=NC2C2=CC=CC=C2)C2=CC=CC=C2)CCCC)CC2=CC1=C(OCO1)C=C2 | C37H37N3O4
